US07741324B2
2-(5oxo-4,5-dihydro-[1,2,4]triazin-6-ylmethyl)-isoindole-1,3-dione (Compound of Formula XV) was prepared as follows:
A slurry of 2-(5-oxo-3-thioxo-2,3,4,5-tetrahydro-[1,2,4]triazin-6-ylmethyl)-isoindole-1,3-dione (1.0 g, 3.47 mmol) in EtOH (40 mL) was charged with excess Raney Nickel (3 spatula) and heated to reflux for 2 h. The reaction mixture was filtered hot through a small pad of celite and washed with a hot mixture of EtOH/THF (1:1) (100 mL) and the filtrate was concentrated in vacuo resulting in the title compound as an off-white solid; 1H NMR (DMSO-d6, 400 MHz) δ 4.75 (s, 2H), 7.84-7.98 (m, 4H), 8.66 (s, 1H); MS (ES+): m/z 257.22 (100) [MH+], HPLC: tR=2.08 min (MicromassZQ, polar—5 min).

reactant | 2-(5-oxo-3-thioxo-2,3,4,5-tetrahydro-[1,2,4]triazin-6-ylmethyl)-isoindole-1,3-dione | 3.47 mmol, 1.0 g | O=C1NC(NN=C1CN1C(C2=CC=CC=C2C1=O)=O)=S | C12H8N4O3S
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | 2-(5oxo-4,5-dihydro-[1,2,4]triazin-6-ylmethyl)-isoindole-1,3-dione | O=C1NC=NN=C1CN1C(C2=CC=CC=C2C1=O)=O | C12H8N4O3
